US07105553B2
(2′-Fluoro[1,1′-biphenyl]4-yl)acetic acid
26.5 g (0.11 mol) of methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate are initially charged in 50 ml of ethanol and, at room temperature, admixed with a solution of 12.8 g (0.19 mol) of potassium hydroxide pellets in 25 ml of water. The mixture is then heated under reflux for 4 h. After cooling, the crude mixture is concentrated under reduced pressure, and the residue is dissolved in 100 ml of water and acidified using conc. hydrochloric acid. The precipitate is filtered off and washed repeatedly with water, and the solid is dried. This gives Example VI in the form of white crystals.

reactant | methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate | 0.11 mol, 26.5 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H13FO2
reactant | potassium hydroxide | 0.19 mol, 12.8 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | (2′-Fluoro[1,1′-biphenyl]4-yl)acetic acid | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H11FO2
